US06723716B1
4-[(2-tert-Butoxycarbonylaminoethyl)thiomethyl]-2-methoxy-1,3-thiazole
To a solution of 2-bromo-4-[(2-tert-butoxycarbonylaminoethyl)thiomethyl]-1,3-thiazole (650 mg, 1.85 mmol) in N,N-dimethylformamide (5 mL) was added sodium methoxide (300 mg, 5.56 mmol) and stirred at 45° C. for 3 days. The reaction was quenched with water and the mixture was extracted with ethyl acetate. The ethyl acetate extract was washed with aqueous lithium chloride and concentrated. The residue was chromatographed on silica gel (10% ethyl acetate-hexane), affording 184 mg of the title compound. 1H NMR (CDCl3) δ 1.54 (9H), 2.78 (t, 2H), 3.42 (m, 2H), 3.74 (s, 2H), 4.18 (s, 3H), 5.24 (br s, 1H), 6.60 (s, 1H).

reactant | 2-bromo-4-[(2-tert-butoxycarbonylaminoethyl)thiomethyl]-1,3-thiazole | 1.85 mmol, 650 mg | BrC=1SC=C(N1)CSCCNC(=O)OC(C)(C)C | C11H17BrN2O2S2
reactant | sodium methoxide | 5.56 mmol, 300 mg | C[O-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[(2-tert-Butoxycarbonylaminoethyl)thiomethyl]-2-methoxy-1,3-thiazole | 184 mg | C(C)(C)(C)OC(=O)NCCSCC=1N=C(SC1)OC | C12H20N2O3S2
